US07544697B2
Toluene (70 mL) and thionyl chloride (70 mL) were added to 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylic acid (28.8 g, 87.8 mmol) and the mixture was heated at reflux for 1 hour, cooled to ambient temperature, and concentrated under reduced pressure to yield a yellow solid. The solid was dissolved in dichloromethane (200 mL). The solution was cooled to 0° C., then concentrated ammonium hydroxide (125 mL) was added in one portion. The resulting mixture was stirred for 1 hour at 0° C. The dichloromethane was removed under reduced pressure. A solid was isolated by filtration, washed with water, and dried to afford 28.70 g of 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxamide.

reactant | Toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 70 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylic acid | 87.8 mmol, 28.8 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1CCC)C(=O)O | C17H17N3O4
reactant | ammonium hydroxide | 125 mL | [OH-].[NH4+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxamide | 28.70 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1CCC)C(=O)N | C17H18N4O3
